US08669234B2
4,6,4′,6′-tetramethoxy-biphenyl-2,2′-dicarboxylic acid dimethyl ester (2.5 g) was dissolved in THF (96 mL), and 1M LiAlH4 in THF (9.6 mL) was added . After stirring at room temperature for overnight, the mixture was quenched with water and 2N HCl (24 mL) was added. The mixture was evaporated under vacuum and partitioned with DCM (300 mL) and water (200 mL). The organic layer was dried over Na2SO4 and crystallized with DCM to provide (6′-hydroxymethyl-4,6,2′,4′-tetramethoxy-biphenyl-2-yl)-methanol (1.7 g, 77%) as a pale blue white triclinic crystals.

reactant | 4,6,4′,6′-tetramethoxy-biphenyl-2,2′-dicarboxylic acid dimethyl ester | 2.5 g | COC(=O)C=1C(=C(C=C(C1)OC)OC)C=1C(=CC(=CC1OC)OC)C(=O)OC | C20H22O8
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 96 mL | C1CCOC1 | C4H8O
solvent | THF | 9.6 mL | C1CCOC1 | C4H8O
product | (6′-hydroxymethyl-4,6,2′,4′-tetramethoxy-biphenyl-2-yl)-methanol | 1.7 g, 77% | OCC1=CC(=CC(=C1C1=C(C=C(C=C1OC)OC)CO)OC)OC | C18H22O6
